US04297365
The same compound is also prepared as follows: 11.5 g of n-butyl isothiocyanate are added to 11.4 g of N,N-diethyl-acetamidine, whereupon the mixture becomes exothermic. The mixture is left to stand for 1 hour at 60° and the resulting adduct is used in the following experiment. A mixture of 22.9 g of the crude product and 27.9 g of 4-chloro-3-nitro-phenacyl bromide in 200 ml of isopropanol is refluxed for 2 hours. The solution is worked up as described above, yielding 4-chloro-3-nitro-1-(4-methyl-2-n-butylamino-5-thiazoloyl)-benzene.

reactant | n-butyl isothiocyanate | 11.5 g | C(CCC)N=C=S | C5H9NS
reactant | N,N-diethyl-acetamidine | 11.4 g | C(C)N(C(C)=N)CC | C6H14N2
reactant | 4-chloro-3-nitro-phenacyl bromide | 27.9 g | ClC1=C(C=C(C(CBr)=O)C=C1)[N+](=O)[O-] | C8H5BrClNO3
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 4-chloro-3-nitro-1-(4-methyl-2-n-butylamino-5-thiazoloyl)-benzene | ClC1=C(C=C(C=C1)C(=O)C1=C(N=C(S1)NCCCC)C)[N+](=O)[O-] | C15H16ClN3O3S
